US04761420
To a solution of 2,6-dimethyl-3-carbomethoxy-4-(3-nitrophenyl)-5-(2-[4-(2-hydroxyethyl)phenoxy]ethoxycarbonyl)-1,4-dihydropyridine (1.25 g, 2.52 mmoles) in CH2Cl2 (15 mL) cooled to 0° C., were added pyridine (0.25 mL, 3.10 mmoles) and acetic anhydride (0.85 mL, 9.0 mmoles). The reaction mixture was left at room temperature for 24 hours. Water (20 mL) was then added to extract the pyridine. The organic layer was dried over anhydrous Na2SO4. After evaporation of the solvent, the crude product (1.5 g) was purified by flash chromatography (solvent=93:7 CH2Cl2 :acetone) to yield 2,6-dimethyl-3-methoxycarbonyl-4-(3-nitrophenyl)-5-(2-[4-(2-acetoxyethyl)phenoxy]ethoxycarbonyl)-1,4-dihydropyridine, mp=110° C. NMR (CDCl3) δppm: 8.2(m, 9H); 5.15(s, 1H); 4.5-3.9(m, 6H); 3.63(s, 3H); 2.87(t, 2H); 2.37(s, 6H); 2.07(s, 3H).

reactant | 2,6-dimethyl-3-carbomethoxy-4-(3-nitrophenyl)-5-(2-[4-(2-hydroxyethyl)phenoxy]ethoxycarbonyl)-1,4-dihydropyridine | 2.52 mmoles, 1.25 g | CC=1NC(=C(C(C1C(=O)OC)C1=CC(=CC=C1)[N+](=O)[O-])C(=O)OCCOC1=CC=C(C=C1)CCO)C | C26H28N2O8
reactant | pyridine | 3.10 mmoles, 0.25 mL | N1=CC=CC=C1 | C5H5N
reactant | acetic anhydride | 9.0 mmoles, 0.85 mL | C(C)(=O)OC(C)=O | C4H6O3
reactant | Water | 20 mL | O | H2O
solvent | CH2Cl2 | 15 mL | C(Cl)Cl | CH2Cl2
product | 2,6-dimethyl-3-methoxycarbonyl-4-(3-nitrophenyl)-5-(2-[4-(2-acetoxyethyl)phenoxy]ethoxycarbonyl)-1,4-dihydropyridine | CC=1NC(=C(C(C1C(=O)OC)C1=CC(=CC=C1)[N+](=O)[O-])C(=O)OCCOC1=CC=C(C=C1)CCOC(C)=O)C | C28H30N2O9
